US07592358B2
20.1c. {4-[5-(4-chlorophenyl)pyridin-2-ylethynyl]-2-methylphenyl}-[2-(4-methylpiperidin-1-yl)ethyl]amine
The product was prepared analogously to Example 7.1e starting from (4-iodo-2-methylphenyl)-[2-(4-methylpiperidin-1-yl)ethyl]amine and 5-(4-chlorophenyl)-2-ethynylpyridine. Yield: 60 mg (20% of theoretical); C28H30ClN3 (M=444.011); calc.: molpeak (M+H)+444/446 (Cl); found molpeak (M+H)+: 444/446 (Cl); HPLC-MS: 5.53 minutes (method B).

reactant | (4-iodo-2-methylphenyl)-[2-(4-methylpiperidin-1-yl)ethyl]amine | IC1=CC(=C(C=C1)NCCN1CCC(CC1)C)C | C15H23IN2
reactant | 5-(4-chlorophenyl)-2-ethynylpyridine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C | C13H8ClN
product | {4-[5-(4-chlorophenyl)pyridin-2-ylethynyl]-2-methylphenyl}-[2-(4-methylpiperidin-1-yl)ethyl]amine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=CC(=C(C=C1)NCCN1CCC(CC1)C)C | C28H30ClN3
